US04496564
A mixture of 5-(4-[2-propylguanidino]pyrimid-2-yl)valeronitrile (0.25 g.) and concentrated sulphuric acid (2 ml.) was stirred at ambient temperature for 3.5 hours. The reaction mixture was cooled in an ice bath and basified by careful dropwise addition of concentrated aqueous ammonia (s.g. 0.880). The resulting white precipitate was collected, washed with water and allowed to dry. The solid was purified by medium pressure chromatography on silica gel using CHCl3 /MeOH/aqueous ammonia (s.g. 0.880) 8:2:0.3 v/v/v as eluant to give 5-(4-[2-propylguanidino]pyrimid-2-yl)valeramide (0.15 g.), m.p. 212°-214°.

reactant | 5-(4-[2-propylguanidino]pyrimid-2-yl)valeronitrile | 0.25 g | C(CC)N=C(NC1=NC(=NC=C1)CCCCC#N)N | C13H20N6
reactant | sulphuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
reactant | ammonia | N | H3N
product | 5-(4-[2-propylguanidino]pyrimid-2-yl)valeramide | 0.15 g | C(CC)N=C(NC1=NC(=NC=C1)CCCCC(=O)N)N | C13H22N6O
